US08383631B2
1-(4-cyclohexylphenyl)piperazine
A target compound (2.01 g, 8.224 mmol, 45.7%) was yielded in the same manner as Reference Example 10 by reacting 1-bromo-4-cyclohexylbenzene (3.34 mL, 18 mmol) with piperazine (2.01 g, 23.4 mmol), sodium t-butoxide (2.51 g, 26.1 mmol) and dichlorobis(tri-o-tolylphosphine)palladium(II) (424.4 mg, 0.54 mmol) and purifying by separation through column chromatography (CH2Cl2/MeOH, 1:1).

reactant | 1-bromo-4-cyclohexylbenzene | 18 mmol, 3.34 mL | BrC1=CC=C(C=C1)C1CCCCC1 | C12H15Br
reactant | piperazine | 23.4 mmol, 2.01 g | N1CCNCC1 | C4H10N2
reactant | sodium t-butoxide | 26.1 mmol, 2.51 g | CC(C)([O-])C.[Na+]
catalyst | dichlorobis(tri-o-tolylphosphine)palladium(II) | 0.54 mmol, 424.4 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 1-(4-cyclohexylphenyl)piperazine | C1(CCCCC1)C1=CC=C(C=C1)N1CCNCC1 | C16H24N2
